US07820821B2
Bromocyclopentane (14 mmol) and 2-nitroimidazole (10 mmol) were used to prepare 1-cyclopentyl-2-nitro-1H-imidazole following the alkylation procedure described for Example 181. The product, thus obtained was reduced under hydrogenation conditions as described in general procedure F to afford 1-cyclopentyl-2-amino-1H-imidazole. This aminoimidazole derivative was converted to 1-cyclopentyl-2-isothiocyanato-1H-imidazole following the general procedure A.

reactant | Bromocyclopentane | 14 mmol | BrC1CCCC1 | C5H9Br
reactant | 2-nitroimidazole | 10 mmol | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 1-cyclopentyl-2-nitro-1H-imidazole | C1(CCCC1)N1C(=NC=C1)[N+](=O)[O-] | C8H11N3O2
product | 1-cyclopentyl-2-amino-1H-imidazole | C1(CCCC1)N1C(=NC=C1)N | C8H13N3
